US05329012
Sodium methoxide (1.8 g; 0.033 mol) was slowly added to a suspension of diethyl 2-mercapto-1-phenyl-4,5-imidazoledicarboxylate (10 g; 0.031 mol) in absolute methanol (100 mL) then iodomethane (5 g; 0.035 mol) was added. The mixture was allowed to stir overnight, additional iodomethane (5 g; 0.035 mol) was added and the mixture was stirred for 1 hour. The methanol was removed in vacuo and ice-cold water was added to the residue. The mixture was filtered, the collected solid was washed with water and dried to give 7.6 g (80%) of pure dimethyl 2-(methylthio)-1-phenyl-4,5-imidazoledicarboxylate (mp 121°-122° C).

reactant | Sodium methoxide | 0.033 mol, 1.8 g | C[O-].[Na+]
reactant | diethyl 2-mercapto-1-phenyl-4,5-imidazoledicarboxylate | 0.031 mol, 10 g | SC=1N(C(=C(N1)C(=O)OCC)C(=O)OCC)C1=CC=CC=C1 | C15H16N2O4S
reactant | iodomethane | 0.035 mol, 5 g | IC | CH3I
reactant | iodomethane | 0.035 mol, 5 g | IC | CH3I
solvent | methanol | 100 mL | CO | CH4O
product | dimethyl 2-(methylthio)-1-phenyl-4,5-imidazoledicarboxylate | 7.6 g, 80% | CSC=1N(C(=C(N1)C(=O)OC)C(=O)OC)C1=CC=CC=C1 | C14H14N2O4S
